US09061013B2
3-hydroxy-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid methylamide
To a stirred solution of 3-hydroxy-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid (Preparation 4, 0.060 g, 0.118 mmol) in dry DMF (1 mL) was added HATU (0.067 g, 0.177 mmol), HOBt (0.0175 g, 0.129 mmol), DIPEA (0.03 g, 0.236 mmol) and saturated solution of methyl amine in THF (2 mL) at 0° C. Resulting reaction mixture was stirred 0° C. for 2 hours and at room temperature for 18 hours. After complete consumption of starting material, reaction mixture was quenched with water (5 mL), extracted with EtOAc (10 mL). Organic layer was washed with saturated solution of lithium chloride (2×20 mL), water (2×20 mL), dried over sodium sulphate and evaporated in vacuo to get brown crude. Crude was purified by column chromatography on silica gel (100-200 mesh size). Compound was eluted using 1.2% methanol in DCM to afford sticky mass, which was crystallized by chloroform:pentane (1:9) to afford white solid (0.018 g, 29%). 1H-NMR (400 MHz, CDCl3) δ: 2.49-2.52 (m, 2H), 2.81-2.83 (m, 2H), 2.84-2.86 (m, 1H), 2.88 (d, 3H, J=4.88 Hz), 3.67 (d, 1H, J=17.08 Hz), 4.07 (d, 1H, J=17.16 Hz), 5.67 (bs, 1H), 5.81 (s, 1H), 7.55 (d, 2H, J=8.4 Hz), 7.62-7.64 (m, 4H). LC-MS (m/z): [M−H] 518.80. HPLC purity: 98.48%.

reactant | 3-hydroxy-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid | 0.118 mmol, 0.060 g | OC1(CC(C1)C(=O)O)C1=CC=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C21H15Cl3F3NO4
reactant | HATU | 0.177 mmol, 0.067 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBt | 0.129 mmol, 0.0175 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.236 mmol, 0.03 g | CCN(C(C)C)C(C)C | C8H19N
reactant | methyl amine | CN | CH5N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-hydroxy-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid methylamide | 0.018 g, 29% | CNC(=O)C1CC(C1)(C1=CC=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)O | C22H18Cl3F3N2O3
